US04980470
Synthesis of 7-(cis-3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
A mixture of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (200 mg), cis-3-t-butoxycarbonylamino-4-methylpyrrolidine (150 mg), DBU (110 mg) and anhydrous acetonitrile (3 ml) was refluxed for 5 hours. After cooling, the resulting precipitate was collected by filtration. This precipitate was added to the mixture of concentrated hydrochloric acid-methanol (1:1, 6 ml) and stirred for 1.5 hours at room temperature. The reaction mixture was neutralized by concentrated aqueous ammonia and allowed to stand in the refrigerator. The resulting crystals were collected by filtration and washed with cold water to give the title compound (90 mg) as colorless prisms, mp 185°-188 ° C. (decompd.).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 200 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | cis-3-t-butoxycarbonylamino-4-methylpyrrolidine | 150 mg | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1C | C10H20N2O2
reactant | DBU | 110 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 7-(cis-3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 90 mg | N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C19H22FN3O4
